US05804532
A mixture of 3-cyclopropyl-1-(2-phenylsulphenyl-4-trifluoromethylphenyl)propan-1,3-dione (6.0 g) and triethylorthoformate (4.9 g) in acetic anhydride was stirred and heated at reflux for 3 hours. It was cooled and evaporated. The residue was treated with toluene and re-evaporated to dryness to give 1-cyclopropyl-2-ethoxymethylene-3-(2-phenylsulphenyl-4-trifluoromethylphenyl)propan-1,3-dione (6.7 g) as a red oil.

reactant | 3-cyclopropyl-1-(2-phenylsulphenyl-4-trifluoromethylphenyl)propan-1,3-dione | 6.0 g | C1(CC1)C(CC(=O)C1=C(C=C(C=C1)C(F)(F)F)SC1=CC=CC=C1)=O | C19H15F3O2S
reactant | triethylorthoformate | 4.9 g | C(C)OC(OCC)OCC | C7H16O3
solvent | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | 1-cyclopropyl-2-ethoxymethylene-3-(2-phenylsulphenyl-4-trifluoromethylphenyl)propan-1,3-dione | 6.7 g | C1(CC1)C(C(C(=O)C1=C(C=C(C=C1)C(F)(F)F)SC1=CC=CC=C1)=COCC)=O | C22H19F3O3S
